US07528160B2
(6-Hydroxy-1H-indol-3-yl)-acetic acid methyl ester
A mixture of (6-benzyloxy-1H-indol-3-yl)-oxo-acetic acid methyl ester (1.45 g, 4.7 mmol) and Pd/C (10%, 0.9 g) in dioxane (38 mL) is degassed and filled with nitrogen for three times, then a solution of NaH2PO2 (6 g) in water (5 mL) is added dropwise at 100° C. The reaction mixture is heated overnight, filtered through celite and concentrated. The residue is taken into ethyl acetate, washed with water and brine, dried over sodium sulfate. Concentration and column chromatography on silica gel yields the title compound (600 mg).

reactant | (6-benzyloxy-1H-indol-3-yl)-oxo-acetic acid methyl ester | 4.7 mmol, 1.45 g | COC(C(=O)C1=CNC2=CC(=CC=C12)OCC1=CC=CC=C1)=O | C18H15NO4
solvent | dioxane | 38 mL | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 0.9 g | [Pd] | Pd
product | (6-Hydroxy-1H-indol-3-yl)-acetic acid methyl ester | 600 mg | COC(CC1=CNC2=CC(=CC=C12)O)=O | C11H11NO3
